US05521147
A solution of 4.0 g (0.018 mole) of 4-chloro-2,3-dihydro-2,2-dimethyl-7-nitrobenzofuran in approximately 60 mL of glacial acetic acid was heated to 50° C. To this solution were added 10 mL of water, and, while maintaining the temperature at 50° C., 4.0 g (0.072 mole) of powdered iron. Upon completion of addition, the reaction mixture was allowed to cool to room temperature at which it stirred for an hour. Then the reaction mixture was diluted with 100 mL of water and filtered. The filtrate was extracted with diethyl ether, and the combined extracts were dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated from this filtrate under reduced pressure, leaving 2.45 g of 7-amino-4-chloro-2,3-dihydro-2,2-dimethylbenzofuran as a residue.

reactant | 4-chloro-2,3-dihydro-2,2-dimethyl-7-nitrobenzofuran | 0.018 mole, 4.0 g | ClC1=CC=C(C2=C1CC(O2)(C)C)[N+](=O)[O-] | C10H10ClNO3
solvent | acetic acid | approximately 60 mL | C(C)(=O)O | C2H4O2
solvent | water | 100 mL | O | H2O
catalyst | iron | 0.072 mole, 4.0 g | [Fe] | Fe
solvent | water | 10 mL | O | H2O
product | 7-amino-4-chloro-2,3-dihydro-2,2-dimethylbenzofuran | 2.45 g | NC1=CC=C(C=2CC(OC21)(C)C)Cl | C10H12ClNO
